US06093710
A mixture of ethyl 5-(2-thienyl)-2,4-pentdienoate (20.20 g), 10% palladium hydroxide (Pd(OH)2) (2.04 g), THF (200 ml), MeOH (100 ml) and 1 N HCl (10 ml) was stirred at r.t. under nitrogen atmosphere for 3.5 hours. After removal of insoluble solids, the filtrate was evaporated in vacuo, and the residue was dissolved with a mixture of AcOEt and water. The organic layer was washed with saturated aqueous solution of NaHCO3, water and brine, and dried over MgSO4, and evaporated in vacuo to give ethyl 5-(2-thienyl)pentanoate (15.70 g).

reactant | ethyl 5-(2-thienyl)-2,4-pentdienoate | 20.20 g | S1C(=CC=C1)C=CC=CC(=O)OCC | C11H12O2S
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | HCl | 1 N, 10 ml | Cl | ClH
catalyst | palladium hydroxide | 2.04 g | [OH-].[Pd+2].[OH-]
solvent | MeOH | 100 ml | CO | CH4O
product | ethyl 5-(2-thienyl)pentanoate | 15.70 g | S1C(=CC=C1)CCCCC(=O)OCC | C11H16O2S
